US07449467B2
N-[(1R,3S)-3-Isopropyl-3-(4-[6-methyl-4-(trifluoromethyl)pyridin-2-yl]piperazin-1-ylcarbonyl)cyclopentyl]-3-methyltetrahydro-2H-pyran-4-amine
To a solution of (1R,3S)-3-isopropyl-3-(4-[6-methyl-4-(trifluoromethyl)pyridin-2-yl]piperazin-1-ylcarbonyl)cyclopentanamine (120 mg, 0.30 mmol), 3-methyltetrahydro-4H-pyran-4-one (100 mg, 0.90 mmol), and triethylamine (0.12 mL, 0.90 mmol) in methylene chloride (20 mL) was added sodium triacetoxyborohydride (0.19 g, 0.90 mmol). After being stirred at room temperature overnight, the reaction mixture was diluted with methylene chloride, washed with brine, dried over sodium sulfate, filtered and concentrated. The residue was purified by flash chromatography to provide the desired product as a mixture of four isomers. LCMS calculated for C26H39F3N4O2: (M+1) 497.3; found 497.2 for four isomers.

reactant | (1R,3S)-3-isopropyl-3-(4-[6-methyl-4-(trifluoromethyl)pyridin-2-yl]piperazin-1-ylcarbonyl)cyclopentanamine | 0.30 mmol, 120 mg | C(C)(C)[C@]1(C[C@@H](CC1)N)C(=O)N1CCN(CC1)C1=NC(=CC(=C1)C(F)(F)F)C | C20H29F3N4O
reactant | 3-methyltetrahydro-4H-pyran-4-one | 0.90 mmol, 100 mg | CC1COCCC1=O | C6H10O2
reactant | triethylamine | 0.90 mmol, 0.12 mL | C(C)N(CC)CC | C6H15N
reactant | sodium triacetoxyborohydride | 0.90 mmol, 0.19 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | N-[(1R,3S)-3-Isopropyl-3-(4-[6-methyl-4-(trifluoromethyl)pyridin-2-yl]piperazin-1-ylcarbonyl)cyclopentyl]-3-methyltetrahydro-2H-pyran-4-amine | C(C)(C)[C@]1(C[C@@H](CC1)NC1C(COCC1)C)C(=O)N1CCN(CC1)C1=NC(=CC(=C1)C(F)(F)F)C | C26H39F3N4O2
